US06593330B2
2-[(4-Fluorobenzyl)oxy]-6-(1-piperazinyl)pyrazine
4-Fluorobenzyl alcohol (0.189 g, 1.50 mmol) was dissolved in THF (1 mL) and treated with NaH (0.065 g, 55% dispersion in mineral oil, 1.5 mmol). The reaction mixture was stirred at room temperature for 3 h. A solution of 2,6-dichloropyrazine (1.57 g, 10.5 mmol) in THF (7 mL) was added and the resulting mixture was stirred for 4 h at room temperature. Piperazine (0.580 g, 6.75 mmol) and K2CO3 (0.43 g, 4.5 mmol) were added and the mixture was stirred at 60° C. over night. Filtration, concentration, and purification by chromatography on silica gel using ethyl acetate/acetic acid/methanol/water (24:3:3:2) as eluent furnished 0.20 g (46%) of the title compound as a white solid: mp 183° C. HRMS m/z calcd for C15H17FN4O(M)+ 288.1386, found 288.1380. Anal. (C15H17FN4O. 2.6H2O) C, H, N.

reactant | 4-Fluorobenzyl alcohol | 1.50 mmol, 0.189 g | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | NaH | 1.5 mmol, 0.065 g | [H-].[Na+]
reactant | 2,6-dichloropyrazine | 10.5 mmol, 1.57 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | Piperazine | 6.75 mmol, 0.580 g | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 4.5 mmol, 0.43 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 2-[(4-Fluorobenzyl)oxy]-6-(1-piperazinyl)pyrazine | 0.20 g, 46% | FC1=CC=C(COC2=NC(=CN=C2)N2CCNCC2)C=C1 | C15H17FN4O
